US07384967B2
{5-Bromo-2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid
To a suspension of {2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester (0.20 g, 0.52 mmol) in 10 ml of acetic acid was added N-bromosuccinimide (0.10 g, 0.57 mmol). The reaction mixture was stirred under nitrogen in a pressure bottle excluded from light overnight at 25° C. The mixture was concentrated under reduced pressure, dissolved in DMSO and purified by preparative HPLC to afford the title compound (0.137 g, 57%).

reactant | {2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester | 0.52 mmol, 0.20 g | C(C)OC(CC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C21H25N3O4S
reactant | N-bromosuccinimide | 0.57 mmol, 0.10 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | {5-Bromo-2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | 0.137 g, 57% | BrC1=C(N=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)CC(=O)O | C19H20BrN3O4S
